US04933355
Ethyl 2-(3-p-tolylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1. the desired compound was prepared from 12 g of ethyl 2-aminothiazol-4-ylglyoxylate. 10 g of p-tolyl isocyanate and 80 ml of dimethylformamide. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 12 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | p-tolyl isocyanate | 10 g | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-p-tolylureido)thiazol-4-ylglyoxylate | C1(=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O)C | C15H15N3O4S
